US08686167B2
3-Mercaptopropionic acid (150 mg, 1.41 mmol, 1.5 eq) can be added, under an atmosphere of dry nitrogen, to a stirred solution of sodium methoxide, prepared from sodium (64 mg, 2.78 mmol, 3 eq) and methanol (20 ml). After the initial white precipitate had dissolved, a solution of (3Z,6Z)-nona-3,6-dienyl p-toluenesulfonate (276 mg, 0.94 mmol) in diethyl ether can be added. The mixture can be stirred at 40° C. for several days under nitrogen, hydrochloric acid (10% v/v, 20 ml) and diethyl ether (20 ml) can be poured into the crude reaction mixture. The organic phase can be collected and washed with water and brine, and dried over sodium sulfate. The 3-(3E,6E)-nona-3,6-dienylthiopropionic acid produced can be dissolved in a solvent and PhSeBr and HgCl2 can added to the solution followed by an oxidizing agent to form a nitro-vinyl group at either on the 3-(3E,6E)-nona-3,6-dienylthiopropionic acid thereby producing, 3-(3E,6E)-6-nitronona-3,6-dienylthiopropionic acid.

reactant | 3-Mercaptopropionic acid | 1.41 mmol, 150 mg, 1.5 eq | SCCC(=O)O | C3H6O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 2.78 mmol, 64 mg, 3 eq | [Na] | Na
reactant | (3Z,6Z)-nona-3,6-dienyl p-toluenesulfonate | 0.94 mmol, 276 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC\C=C/C\C=C/CC)C | C16H22O3S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
product | 3-(3E,6E)-nona-3,6-dienylthiopropionic acid | C(C\C=C\C\C=C\CC)CCC(=S)O | C12H20OS
